US07612075B2
1-(4-Amino-2-methyl-quinazolin-7-ylmethyl)-4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-piperidin-2-one
A stream of hydrogen chloride gas is bubbled intermittently through an ice-cold mixture of 2-amino-4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzonitrile hydrochloric acid salt (57 mg, 0.123 mmol), EXAMPLE 814, Part E, and acetonitrile (0.03 mL, 0.93 mmol) in 1.5 mL of dioxane for six hours. The dioxane is removed; the residue is purified by reverse phase HPLC (0-40% ACN/H2O). The desired product (9.5 mg, 12% yield) is isolated as a clear wax. C23H23ClN6O MS m/z: 435, 437.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-amino-4-[4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-2-oxo-piperidin-1-ylmethyl]-benzonitrile hydrochloric acid salt | 0.123 mmol, 57 mg | Cl.NC1=C(C#N)C=CC(=C1)CN1C(CC(CC1)CC1=NC2=C(N1)C=C(C=C2)Cl)=O
reactant | acetonitrile | 0.93 mmol, 0.03 mL | C(C)#N | C2H3N
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Amino-2-methyl-quinazolin-7-ylmethyl)-4-(6-chloro-1H-benzoimidazol-2-ylmethyl)-piperidin-2-one | 9.5 mg, 12% yield | NC1=NC(=NC2=CC(=CC=C12)CN1C(CC(CC1)CC1=NC2=C(N1)C=C(C=C2)Cl)=O)C | C23H23ClN6O
